US06677364B2
A solution of benzyl methyl malonate (0.88 g, 4.22 mmol) in 3 mL of anhydrous DMA was added to a suspension of sodium hydride (0.11 g, 4.45 mmol) in 2 mL of anhydrous DMA at 5° C., and the reaction mixture was stirred for 40 min at 5° C. Then 3-[(4-methoxy)tetrahydropyran-4-yl]-α-bromotoluene [prepared as described in U.S. Pat. No. 5,424,320] (1.21 g, 4.24 mmol) was dissolved in 6 mL of anhydrous DMA and added to this solution. The reaction mixture was stirred for 2 h at 5° C., and for 18 h at room temperature. The reaction mixture was quenched with water (100 mL). The aqueous solution was extracted with ethyl acetate (3×70 mL). The combined organic extracts were washed with brine (1×100 mL), dried over magnesium sulfate, filtered and concentrated. The concentrated residue was purified by flash column chromatography on silica gel, eluting with 20% ethyl acetate in hexane, to give 0.93 g (53%) of benzyl methyl 2-[3-[(4-methoxy) tetrahydropyran-4-yl]phenylmethyl]malonate as a clear oil: HRMS: calcd for C24H28O6 413.1964, found 413.1952.

reactant | benzyl methyl malonate | 4.22 mmol, 0.88 g | C(CC(=O)OC)(=O)OCC1=CC=CC=C1 | C11H12O4
reactant | sodium hydride | 4.45 mmol, 0.11 g | [H-].[Na+]
reactant | 3-[(4-methoxy)tetrahydropyran-4-yl]-α-bromotoluene | COC1(CCOCC1)C=1C=C(C=CC1)CBr | C13H17BrO2
solvent | DMA | 3 mL | CC(=O)N(C)C | C4H9NO
solvent | DMA | 2 mL | CC(=O)N(C)C | C4H9NO
solvent | DMA | 6 mL | CC(=O)N(C)C | C4H9NO
product | benzyl methyl 2-[3-[(4-methoxy) tetrahydropyran-4-yl]phenylmethyl]malonate | 0.93 g, 53% | COC1(CCOCC1)C=1C=C(C=CC1)CC(C(=O)OCC1=CC=CC=C1)C(=O)OC | C24H28O6
